US08242151B2
4-chloro-2-cyclopropylbenzimidazole
2-Chloro-6-nitroaniline (3.00 g, 17.4 mmol) and pyridine (7.0 mL, 86.9 mmol) were dissolved in DMA (17 mL), and the solution was added with cyclopropanecarbonylchloride (4.0 mL, 43.5), followed by stirring at 50° C. for 3 hr. Methanol (10 mL) and aqueous ammonia (9 mL) were added to the reaction mixture, and the mixture was stirred at room temperature for 30 min. Water (10 mL) was added, and the precipitated solid was collected by filtration. The solid was suspended in ethanol (38 mL) and water (38 mL) and the solution was added with ferrous sulfate 7 hydrate (13.86 g, 49.9 mmol) and aqueous ammonia (19 mL), followed by stirring at 50° C. for 4 hr. The reaction mixture was filtrated, and the filtrate was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Acetic acid (8 mL) was added to the residue, and the mixture was stirred at 90° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was neutralized with aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ethyl acetate (5 mL) and diisopropyl ether (5 mL) were added to the residue and the precipitated solid was collected by filtration to give the title compound (1.20 g, 36%).

reactant | 2-Chloro-6-nitroaniline | 17.4 mmol, 3.00 g | ClC1=C(N)C(=CC=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | pyridine | 86.9 mmol, 7.0 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonylchloride | 4.0 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | ammonia | 9 mL | N | H3N
reactant | ammonia | 19 mL | N | H3N
solvent | DMA | 17 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 38 mL | O | H2O
solvent | Water | 10 mL | O | H2O
solvent | Methanol | 10 mL | CO | CH4O
product | 4-chloro-2-cyclopropylbenzimidazole | 1.20 g, 36% | ClC1=CC=CC=2N=C(NC21)C2CC2 | C10H9ClN2
